US06034246
2-(4'-amino-3'-bromophenyl)benzothiazole (DF209)
To a solution of 2-(4'-aminophenyl) benzothiazole (0.45 g, 1.99 mmol) in CH2Cl2 (50 ml) was added a solution of bromine (0.32 g, 1.99 mmol) in CH2Cl2 (10 ml) at -5° C. After the reaction mixture had been stirred still at -5° C. for 2 minutes, it was poured into ice-water (400 ml). The resulting mixture was stirred for 40 minutes at room temperature. The organic layer was separated, washed with 10% aqueous sodium thiosulfate (50 ml×2) and water (60 ml×2), dried (MgSO4) and concentrated. The residue was chromatographed on a silica gel column, eluting with ethyl acetate-hexane (1:3), to give pale yellow crystals (0.48 g, 79.1%), m.p. 160.0-161.4° C.

reactant | 2-(4'-aminophenyl) benzothiazole | 1.99 mmol, 0.45 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H10N2S
reactant | bromine | 1.99 mmol, 0.32 g | BrBr | Br2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(4'-amino-3'-bromophenyl)benzothiazole | 0.48 g, 79.1% | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)Br | C13H9BrN2S
